US08207147B2
4-(3-Pyridin-yl-[1,2,4]oxadiazol-5-ylmethoxy)piperidine-1-carboxylic acid tert-butyl ester
A stirred solution of triethylamine (123 μl, 0.87 mmol) and 4-carboxymethoxypiperidine-1-carboxylic acid tert-butyl ester (Preparation 1, 227 mg, 0.87 mmol) in toluene (10 ml) was treated with isobutylchloroformate (113 μl, 0.87 mmol). After 20 min, activated powdered 3 Å molecular sieves (0.7 g) and N-hydroxyisonicotinamidine (100 mg, 0.73 mmol) were added and the mixture heated under reflux for 18 h. On cooling, the mixture was filtered through celite, the solvent removed in vacuo and the residue purified by flash chromatography (IH-EtOAc, 7:13) to afford the title compound: RT=3.29 min; m/z (ES+) 361.3 [M+H]+; δH (CDCl3) 1.40 (9H, s), 1.55-1.63 (2H, m), 1.80-1.92 (2H, m), 3.05-3.15 (2H, m), 3.64-3.79 (3H, m), 4.80 (2H, s), 7.90 (2H, d), 8.75 (2H, d).

reactant | triethylamine | 0.87 mmol, 123 μl | C(C)N(CC)CC | C6H15N
reactant | 4-carboxymethoxypiperidine-1-carboxylic acid tert-butyl ester | 0.87 mmol, 227 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OCC(=O)O | C12H21NO5
reactant | isobutylchloroformate | 0.87 mmol, 113 μl | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | N-hydroxyisonicotinamidine | 0.73 mmol, 100 mg | ONC(C1=CC=NC=C1)=N | C6H7N3O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(3-Pyridin-yl-[1,2,4]oxadiazol-5-ylmethoxy)piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OCC1=NC(=NO1)C1=NC=CC=C1 | C18H24N4O4
